US04282246
5-Phenylthiomethylfuran-2-carboxylate is dissolved by warming in acetone. An equivalent of sodium methoxide is added with stirring. Sodium 5-phenylthiomethylfuran-2-carboxylate is isolated by evaporation to dryness or by precipitation resulting from addition of a non-solvent (ether or pentane).

reactant | 5-Phenylthiomethylfuran-2-carboxylate | C1(=CC=CC=C1)SCC1=CC=C(O1)C(=O)[O-]
reactant | sodium methoxide | C[O-].[Na+]
solvent | acetone | CC(=O)C | C3H6O
product | Sodium 5-phenylthiomethylfuran-2-carboxylate | C1(=CC=CC=C1)SCC1=CC=C(O1)C(=O)[O-].[Na+] | InChI=1S/C12H10O3S.Na/c13-12(14)11-7-6-9(15-11)8-16-10-4-2-1-3-5-10;/h1-7H,8H2,(H,13,14);/q;+1/p-1
